US05977117
2,6-Difluorobenzoyl chloride was diluted with CH2Cl2 (5 ml) and cooled to 0° C. A mixture of EtOH (1.2 ml, 20 mmol) and pyridine (1.6 ml, 20 mmol) was added, dropwise, over 5 minutes to the reaction mixture. The ice bath was removed after 5 minutes and the reaction mixture strirred at 25° C. for 45 min. The solvent and volatiles were evaporated under reduced pressure and the residue was partitioned between 1N HCl and EtOAc (10 ml each). The aqueous phase was separated and extracted with 2×7 ml EtOAc. The combined organic extracts was washed with NaHCO3 (10 ml), brine (7 ml), dried over MgSO4 and concentrated to give 1.562 g ethyl 2,6-difluorobenzoate as an almost colorless oil. (84% yield from steps B and C).

reactant | 2,6-Difluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | EtOH | 20 mmol, 1.2 ml | CCO | C2H6O
reactant | pyridine | 20 mmol, 1.6 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2,6-difluorobenzoate | 1.562 g, 84% yield | FC1=C(C(=O)OCC)C(=CC=C1)F | C9H8F2O2
